USRE037556E1
3 g of 6-α-aminoacetyl-3,4-dihydrocarbostyril monohydrochloride was suspended in 60 ml of tetrahydrofuran. Thereto were added 7 ml of triethylamine and 2.8 g of 3,4-dimethoxybenzoyl chloride. The mixture was stirred at room temperature. After 3 hours, the resulting crystals were collected by filtration, methanol-washed and dried to obtain 2.6 g of 6-[2-(3,4-dimethoxybenzoylamino)acetyl]-3,4-dihydrocarbostyril as white acicular crystals.

reactant | 6-α-aminoacetyl-3,4-dihydrocarbostyril monohydrochloride | 3 g | Cl.NCC(=O)C=1C=C2CCC(NC2=CC1)=O
reactant | triethylamine | 7 ml | C(C)N(CC)CC | C6H15N
reactant | 3,4-dimethoxybenzoyl chloride | 2.8 g | COC=1C=C(C(=O)Cl)C=CC1OC | C9H9ClO3
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
product | 6-[2-(3,4-dimethoxybenzoylamino)acetyl]-3,4-dihydrocarbostyril | 2.6 g | COC=1C=C(C(=O)NCC(=O)C=2C=C3CCC(NC3=CC2)=O)C=CC1OC | C20H20N2O5
